.subckt mje13009_BV C B E
.param bvcbo=700  nbvcbo=3.4 N0=1.355
q cV bv e bv
B c bv i=uramp(i(va))*(1/limit(1f,(1-(V(c,bv)/(bvcbo*n0))**nbvcbo),1)-1)
Dc bv c dc
VA c cv 0
Rb bv b 82.769m
Dz e  bv Z

.model z d Vfwd=9 Vrev=9 revepsilon=0.5 Roff=1T Ron=10m


.model dc d is=1f n=50 cjo=516.27p vj=1.5 mj=.39769 rs=25.254e-3 bv={bvcbo} ibv=1u nbv=5

.model bv npn is=418.55f bf=21.619 vaf=10k ikf=11.864 ise=5.9443p ne=1.4275
+ br=.2103 var=100 ikr=4.4990 isc=701.45p nc=1.270 nk=.6367  rc=25.254e-3 
+cje=3.1796n vje=1.5 mje=.11593 tf=12.894n xtf=10 vtf=10
 + itf=1  tr=1.8u  
.ends mje13009_BV